US08076336B2
2-Bromo-1-[3-tert-butyl-5-(2-hydroxyethoxy)phenyl]ethanone
1-{3-tert-Butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone (O2.061; 3.9 g) was dissolved in methanol/THF (60 ml/60 ml) and admixed while stirring with phenyltrimethylammonium tribromide (5.03 g). After stirring at RT for 3 h, the reaction mixture was added to 20% citric acid and stirred for 1 h. After adding EA, the EA phase was removed, dried and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/EA gradient of 0-50% within 60 min). 2.56 g of the title compound were obtained.

reactant | 1-{3-tert-Butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone | 3.9 g | C(C)(C)(C)C=1C=C(C=C(C1)OCCOC1OCCCC1)C(C)=O | C19H28O4
reactant | phenyltrimethylammonium tribromide | 5.03 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | EA | CC(OCC)=O | C4H8O2
solvent | methanol THF | 60 ml | CO.C1CCOC1
product | 2-Bromo-1-[3-tert-butyl-5-(2-hydroxyethoxy)phenyl]ethanone | 2.56 g | BrCC(=O)C1=CC(=CC(=C1)OCCO)C(C)(C)C | C14H19BrO3
